US06982348B2
A solution of 1-(1,2-difluoro-2-methylpropyl)-3-methylbenzene (2.747 g, 14.91 mmol), N-bromosuccinimide (2.65 g, 14.9 mmol) and 2,2′-azobis(isobutyronitrile) (0.1 g) in carbon tetrachloride (30 ml) was heated under reflux for 1.5 hrs. After cooling the reaction solution to room temperature, white precipitate was collected by filtration and washed with hexane. The solvent of the recovered filtrate was evaporated under reduced pressure to give a crude product of 3-(1,2-difluoro-2-methylpropyl)benzyl bromide as a yellow liquid.

reactant | 1-(1,2-difluoro-2-methylpropyl)-3-methylbenzene | 14.91 mmol, 2.747 g | FC(C(C)(C)F)C1=CC(=CC=C1)C | C11H14F2
reactant | N-bromosuccinimide | 14.9 mmol, 2.65 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 0.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(1,2-difluoro-2-methylpropyl)benzyl bromide | FC(C(C)(C)F)C=1C=C(CBr)C=CC1 | C11H13BrF2
